US04604437
N,N'-Hexamethylene-bis-(allylmethylbicyclo[2.2.1]hept-5-ene-2,3-dicarboximide)
300 g of allylmethylbicyclo[2.2.1]hept-5-ene-2,3-dicarboxylic anhydride are taken and heated to 130° C., and 79.9 g of melted hexamethylene diamine are added dropwise, with stirring. Water is removed by distillation, the temperature is raised to 180° C. and the pressure is reduced to 53 Pa. 180° C. and 53 Pa are maintained for 15 minutes. This gives 345 g (97% of theory) of a brown, viscous resin having a viscosity of 1.356 Pa.s at 80° C.

reactant | allylmethylbicyclo[2.2.1]hept-5-ene-2,3-dicarboxylic anhydride | 300 g | C(C=C)CC12C3C(C(C=C1)C2)C(=O)OC3=O | C13H14O3
reactant | hexamethylene diamine | 79.9 g | NCCCCCCN | C6H16N2
product | N,N'-Hexamethylene-bis-(allylmethylbicyclo[2.2.1]hept-5-ene-2,3-dicarboximide) | C(C=C)CC12C3C(C(C=C1)C2)C(N(C3=O)CCCCCCN3C(=O)C2C1(C=CC(C2C3=O)C1)CCC=C)=O | C32H40N2O4
